US07022724B2
8-Bromo-3-(5-chloro-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole
5-Chloro-3-phenylisoxazole 4-carboxaldehyde (1.1 g) and (6-bromo-3H-isoindol-1-yl)hydrazine (1.2 g, 5.3 mmol) were reacted in a similar manner to that described in Example 4 to give the title compound (415 mg, 19%). 1H NMR (400 MHz, d6-DMSO) δ 8.161–8.165 (1H, m), 7.71–7.74 (1H, m), 7.47–7.61 (6H, m), 4.83 (2H, s).

reactant | 5-Chloro-3-phenylisoxazole 4-carboxaldehyde | 1.1 g | ClC1=C(C(=NO1)C1=CC=CC=C1)C=O | C10H6ClNO2
reactant | (6-bromo-3H-isoindol-1-yl)hydrazine | 5.3 mmol, 1.2 g | BrC1=CC=C2CN=C(C2=C1)NN | C8H8BrN3
product | 8-Bromo-3-(5-chloro-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole | 415 mg, 19% | BrC1=CC=C2CN3C(C2=C1)=NN=C3C=3C(=NOC3Cl)C3=CC=CC=C3 | C18H10BrClN4O
